US08258130B2
To a solution of 2-phenyl-pyrimidine-5-carboxylic acid (100 mg, 0.52 mmol), 1-hydroxybenzotriazole (77 mg, 0.57 mmol), 1-[3-(dimethylamino)propyl-3-ethylcarbodiimide (111 mg, 0.57 mmol) and DIPEA (0.57 mmol) in DCM (5 mL) is added N-methyl-N-(5-trifluoromethyl-pyridin-2-yl)-hydrazine (109 mg, 0.57 mmol). The reaction mixture is stirred at rt for 18 hours and then concentrated. The residue is purified by silica gel chromatography eluting with 10-75% EtOAc in heptane to afford 2-phenyl-pyrimidine-5-carboxylic acid N′-methyl-N′-[5-trifluoromethyl-pyridin-2-yl]-hydrazide as a solid (189 mg). MS: 374 (M+H); 1H NMR (300 MHz, CDCl3): δ 3.54 (s, 3H), 6.82 (d, 1H), 7.53-7.59 (m, 3H), 7.74 (d, 1H), 8.45 (d, 2H), 8.53 (d, 2H), 9.25 (s, 2H). IC50=100 nM.

reactant | 2-phenyl-pyrimidine-5-carboxylic acid | 0.52 mmol, 100 mg | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)O | C11H8N2O2
reactant | 1-hydroxybenzotriazole | 0.57 mmol, 77 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-(dimethylamino)propyl-3-ethylcarbodiimide | 0.57 mmol, 111 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | DIPEA | 0.57 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methyl-N-(5-trifluoromethyl-pyridin-2-yl)-hydrazine | 0.57 mmol, 109 mg | CN(N)C1=NC=C(C=C1)C(F)(F)F | C7H8F3N3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-phenyl-pyrimidine-5-carboxylic acid N′-methyl-N′-[5-trifluoromethyl-pyridin-2-yl]-hydrazide | 189 mg | CN(NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1)C1=NC=C(C=C1)C(F)(F)F | C18H14F3N5O
